US04594341
N-t-Butoxycarbonyl-S-(2-carbobenzyloxyaminoethyl)-L-cysteine
S-(2-Carbobenzyloxyaminoethyl)-L-cysteine (0.6 g) in 6 ml of 2:1 dioxane-water and 2 ml of 1M sodium hydroxide solution is treated with di-t-butyl dicarbonate (0.48 g) until reaction is complete. After removal of dioxane, excess reagent is extracted into ether. Upon acidification of the aqueous solution to pH 2 with 4M hydrochloric acid, the product separates out as an oil (0.38 g). The NMR spectrum of such a sample shows a broad singlet at 7.6, a singlet at 7.3, a singlet at 5.0, complex multiplets between 2.6 and 3.7, and a singlet at 1.4.

reactant | S-(2-Carbobenzyloxyaminoethyl)-L-cysteine | 0.6 g | C(=O)(OCC1=CC=CC=C1)NCCSC[C@H](N)C(=O)O | C13H18N2O4S
reactant | di-t-butyl dicarbonate | 0.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 6 ml | O1CCOCC1.O
solvent | sodium hydroxide | 1M, 2 ml | [OH-].[Na+]
product | N-t-Butoxycarbonyl-S-(2-carbobenzyloxyaminoethyl)-L-cysteine | C(C)(C)(C)OC(=O)N[C@@H](CSCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C18H26N2O6S
